US07691882B2
A mixture of 2-methyl-5-phenoxy-pyridine (3.6 g, 19 mmol) described in Manufacturing Example 121-1-1, 3-chloroperoxybenzoic acid (5.6 g, 33 mmol), and methylene chloride (80 mL) was stirred at room temperature for 45 minutes. Aqueous sodium sulfite was added to the reaction solution, and the organic layer was separated and was washed with 5 N aqueous sodium hydroxide (7 mL). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under a reduced pressure to obtain 2-methyl-5-phenoxy-pyridine 1-oxide (3.3 g). 2-methyl-5-phenoxy-pyridine 1-oxide (3.3 g, 16 mmol) and acetic anhydride (20 mL) were stirred for 40 minutes at 115° C. Acetic anhydride was evaporated under a reduced pressure, aqueous sodium bicarbonate and ethyl acetate were added to the residue, and the organic layer was separated. The ethyl acetate solution was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain an acetic acid 5-phenoxy-pyridin-2-ylmethyl ester (3.0 g). Acetic acid 5-phenoxy-pyridin-2-ylmethyl ester (3.0 g, 12 mmol), 5 N aqueous sodium hydroxide (8.0 mL), and methanol (20 mL) were stirred for 20 minutes at 60° C. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under a reduced pressure to obtain the title compound (2.6 g, 65%).

reactant | 2-methyl-5-phenoxy-pyridine | 19 mmol, 3.6 g | CC1=NC=C(C=C1)OC1=CC=CC=C1 | C12H11NO
reactant | 3-chloroperoxybenzoic acid | 33 mmol, 5.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-phenoxy-pyridine 1-oxide | 3.3 g | CC1=[N+](C=C(C=C1)OC1=CC=CC=C1)[O-] | C12H11NO2
